US04555572
1-Chloro-7-[(4-methoxyphenyl)methoxy]-2,4-dinitro-9(10H)-acridinone
To a stirred, ice-cold mixture of 2.67 g of 2-chloro-6-[[4-[(4-methoxyphenyl)methoxy]phenyl]amino]-3,5-dinitrobenzoic acid, 18 ml of 1,2-dichloroethane, and 4.4 ml of N,N-dimethylaniline, was added 0.70 ml of phosphorus oxychloride. After 2.5 hours, the ice bath was removed and the mixture stirred 24 hours at room temperature. The precipitate was collected, washed with water, then with methanol, and dried to provide the title compound, melting above 240° C. with decomposition.

reactant | 2-chloro-6-[[4-[(4-methoxyphenyl)methoxy]phenyl]amino]-3,5-dinitrobenzoic acid | 2.67 g | ClC1=C(C(=O)O)C(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])NC1=CC=C(C=C1)OCC1=CC=C(C=C1)OC | C21H16ClN3O8
reactant | N,N-dimethylaniline | 4.4 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus oxychloride | 0.70 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | 18 ml | ClCCCl | C2H4Cl2
product | 1-Chloro-7-[(4-methoxyphenyl)methoxy]-2,4-dinitro-9(10H)-acridinone | ClC1=C(C=C(C=2NC3=CC=C(C=C3C(C12)=O)OCC1=CC=C(C=C1)OC)[N+](=O)[O-])[N+](=O)[O-] | C21H14ClN3O7
